US07524847B2
4-[9-(2-Cyano-ethyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester
4-[6-(2-Cyano-ethylamino)-5-nitro-pyrimidin-4-yl]piperazine-1-carboxylic acid t-butyl ester (1.0 g) was dissolved in tetrahydrofuran (12 mL), and then 10% palladium on carbon powder (wet type) (200 mg) was added to this solution. The reaction solution was stirred under a hydrogen atmosphere at room temperature for 20 hours. Insoluble substances were then removed by filtration, and the obtained filtrate was concentrated under reduced pressure. The obtained residue was dissolved in acetonitrile (30 mL), and then N,N′-disuccinimidyl carbonate (1.13 g) was added to this solution. The reaction solution was stirred at room temperature for five hours, then 40 mL of water was added. This reaction solution was then concentrated under reduced pressure to 40 mL. The precipitate was collected by filtration. The obtained solid was washed with water and hexane to give the title compound (623 mg). A portion of the obtained compound was purified by silica gel column chromatography for use in NMR analysis.

reactant | 4-[6-(2-Cyano-ethylamino)-5-nitro-pyrimidin-4-yl]piperazine-1-carboxylic acid t-butyl ester | 1.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=C1[N+](=O)[O-])NCCC#N | C16H23N7O4
reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 4-[9-(2-Cyano-ethyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester | 623 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2NC(N(C2=NC=N1)CCC#N)=O | C17H23N7O3
